US08859574B2
To a mixture of 2-fluoro-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (587 mg, 2.33 mmol), tert-butyl 2-methyl-4-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate (968 mg, 2.80 mmol) and sodium carbonate (1.73 g, 16.35 mmol) in DMF/H2O (20/5 mL) was added tetrakis(triphenylphosphine) palladium (0) (135 mg, 5% mmol). The reaction tube was sealed, the mixture was purged with N2 for 3 min and then heated at 100° C. under N2 for 8 h. The reaction was cooled to room temperature and poured into saturated aqueous ammonia chloride solution. The crude reaction mixture was extracted with ethyl acetate (3×15 mL). The organic extracts were combined, washed with brine and concentrated. The crude product was purified with silica chromatography (50% ethyl acetate in hexanes) to afford tert-butyl 4-(4-amino-5-fluoro-2-methylphenyl)-6-methyl-5,6-dihydropyridine-1(2H)-carboxylate as a yellow oil. The obtained oil was dissolved in methanol (20 mL). To the solution was added Pd/C (10%). The reaction mixture was degassed and purged with H2 for several times and stirred vigorously under 1 atm. H2 overnight. The mixture was filtered and the filtrate concentrated to afford tert-butyl 4-(4-amino-5-fluoro-2-methylphenyl)-2-methylpiperidine-1-carboxylate as a white solid. ESMS m/z 267 (M−56+H+).

reactant | 2-fluoro-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 2.33 mmol, 587 mg | FC1=C(N)C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C | C13H19BFNO2
reactant | tert-butyl 2-methyl-4-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate | 2.80 mmol, 968 mg | CC1N(CCC(=C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C12H18F3NO5S
reactant | sodium carbonate | 16.35 mmol, 1.73 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF H2O | 5 mL | CN(C)C=O.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 135 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 4-(4-amino-5-fluoro-2-methylphenyl)-6-methyl-5,6-dihydropyridine-1(2H)-carboxylate | NC1=CC(=C(C=C1F)C1=CCN(C(C1)C)C(=O)OC(C)(C)C)C | C18H25FN2O2
